US09422312B2
Step 2: N′-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-5-yl)phenyl]-N,N-dimethyl-methanesulfonimidamide
The title compound is prepared from (3R,3aR,6R,6aR)-6-(6-chloro-5-iodo-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol and N,N-dimethyl-N′-[4-(tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-methanesulfonimidamide following a procedure analogous to that described for Intermediate 3 (Step 3) using 1,4-dioxane as a solvent. LC (method 2): tR=1.00 min; Mass spectrum (ESI+): m/z=624 [M+H]+.

reactant | (3R,3aR,6R,6aR)-6-(6-chloro-5-iodo-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1I)N(C(=N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)COCC[Si](C)(C)C | C18H25ClIN3O5Si
reactant | N,N-dimethyl-N′-[4-(tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-methanesulfonimidamide | CN(S(=O)(=NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C | C15H25BN2O3S
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N′-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-5-yl)phenyl]-N,N-dimethyl-methanesulfonimidamide | O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC2=NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)N=S(=O)(N(C)C)C)N2COCC[Si](C)(C)C | C27H38ClN5O6SSi
